US07947676B2
4-{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}piperazin-2-one
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and piperazinone to give the title compound in 28% yield; NMR Spectrum: 2.70 (t, 2H), 2.89 (t, 2H), 3.09 (s, 2H), 3.14-3.17 (m, 2H), 4.45 (t, 2H), 5.29 (s, 2H), 7.23 (d, 1H), 7.37 (t, 1H), 7.55-7.58 (m, 2H), 7.73 (br s, 1H), 7.87 (t, 1H), 7.92 (s, 1H), 8.29 (s, 1H), 8.48 (br s, 1H), 8.59 (s, 1H); Mass Spectrum: 495 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | piperazinone | N1C(CNCC1)=O | C4H8N2O
product | 4-{2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}piperazin-2-one | 28% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCN2CC(NCC2)=O | C23H23ClN8O3
